US08389734B2
In a pressure-vessel, a stirring mixture of 2-bromo-4-tert-butylbenzoic acid (1.00 g, 3.89 mmol) and 2-chloro-4-fluorophenol (860 mg, 620 μL, 5.87 mmol) in toluene (20 mL) was added Cs2CO3 (2.53 g, 7.78 mmol) followed by copper(I) triflate benzene complex (98 mg, 0.19 mmol). The sealed vessel was heated to 120° C. for 16 h. After cooling to room temperature, the reaction mixture was partitioned between 50 mL EtOAc and 50 mL H2O. The aqueous layer was acidified using 2.0 N HCl(aq) and re-extracted with EtOAc. The combined organic solution was dried over Na2SO4, filtered, and concentrated. The residue was purified via silica gel chromatography using 0-3% MeOH/CH2Cl2 to give the product, 4-tert-butyl-2-(2-chloro-4-fluorophenoxy)benzoic acid as a white solid (907 mg, 2.81 mmol) in 72% yield. LC/MS: m/z 323.2 (M+H)+ at 1.99 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-bromo-4-tert-butylbenzoic acid | 3.89 mmol, 1.00 g | BrC1=C(C(=O)O)C=CC(=C1)C(C)(C)C | C11H13BrO2
reactant | 2-chloro-4-fluorophenol | 5.87 mmol, 620 μL, 860 mg | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | Cs2CO3 | 7.78 mmol, 2.53 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-tert-butyl-2-(2-chloro-4-fluorophenoxy)benzoic acid | 2.81 mmol, 907 mg, 72% yield | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)OC1=C(C=C(C=C1)F)Cl | C17H16ClFO3
